US09024018B2
Methyl 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbimidothioate hydroiodide
A solution of 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide (2.75 g, 13.1 mmol) and methyl iodide (8.2 mL, 131 mmol) in acetonitrile (900 mL) was stirred at room temperature for 3 days. The mixture was concentrated under vacuum and the solid was suspended in diethyl ether. The precipitate was filtered and washed with diethyl ether to give the pure title compound as an orange solid (4.03 g, 88% yield). δH (DMSO-d6): 11.6 (1H, bs), 9.18 (1H, s) 3.94 (3H, s), 2.82 (3H, s).

reactant | 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide | 13.1 mmol, 2.75 g | CN1N=NC=2N(C1=O)C=NC2C(N)=S | C6H6N6OS
reactant | methyl iodide | 131 mmol, 8.2 mL | CI | CH3I
solvent | acetonitrile | 900 mL | C(C)#N | C2H3N
product | Methyl 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbimidothioate hydroiodide | 4.03 g, 88% yield | I.CN1N=NC=2N(C1=O)C=NC2C(=N)SC | InChI=1S/C7H8N6OS.HI/c1-12-7(14)13-3-9-4(5(8)15-2)6(13)10-11-12;/h3,8H,1-2H3;1H
